US08293768B2
Synthesis of 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid
A mixture of ethyl 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate (0.17 g, 0.47 mmol) and 1 N aqueous sodium hydroxide solution (3.0 mL, 3.0 mmol) in ethanol (6 mL) was stirred at reflux for 1 h, cooled to 0° C. and acidified with 10% aqueous hydrochloric acid to pH ˜2. The resulting precipitate was filtered, washed with water and hexanes, and dried in vacuo to afford the title compound as a colorless solid in 82% yield (0.13 g): 1H NMR (300 MHz, DMSO-d6) δ 12.94 (br s, 1H), 8.70 (s, 1H), 7.36-7.29 (m, 2H), 7.23 (s, 1H), 7.19-7.11 (m, 2H), 4.92 (s, 2H), 2.43 (s, 3H); MS (ES−) m/z 332.1 (M−1).

reactant | ethyl 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate | 0.47 mmol, 0.17 g | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)OCC)C)C=C1 | C17H16FN3O3S
reactant | sodium hydroxide | 3.0 mmol, 1 N, 3.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid | 82% yield | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)O)C)C=C1 | C15H12FN3O3S
